US05011825
(b) Z-Pro-Val-OtBu
1.3 ml of N-ethylmorpholine and 2.2 g of DCC are added, at 0° C., to a solution of 2.49 g of Z-Pro-OH, 2.1 g of H-Val-OtBu.HCl and 1.35 g of HOBt in 20 ml of dimethylformamide. The subsequent procedure is as in Example 8a. The residue is triturated with petroleum ether, filtered off with suction and dried.

reactant | N-ethylmorpholine | 1.3 ml | C(C)N1CCOCC1 | C6H13NO
reactant | DCC | 2.2 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Z-Pro-OH | 2.49 g | N1([C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C13H15NO4
reactant | H-Val-OtBu.HCl | 2.1 g | N[C@@H](C(C)C)C(=O)OC(C)(C)C.Cl
reactant | HOBt | 1.35 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Z-Pro-Val-OtBu | N1([C@H](C(=O)N[C@@H](C(C)C)C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C22H32N2O5
